US07482484B2
Step c: 3-(3-Bromo-4-methoxyphenyl)propanoyl chloride
A solution of 102.4 g (0.86 mol) of thionyl chloride is added to a solution of 51.8 g (0.2 mol) of 3-(3-bromo-4-methoxyphenyl)propanoic acid in 700 ml of chloroform. The mixture is heated at reflux for 4 hours, and the solvent is then evaporated off. 53 g are obtained.

reactant | thionyl chloride | 0.86 mol, 102.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-bromo-4-methoxyphenyl)propanoic acid | 0.2 mol, 51.8 g | BrC=1C=C(C=CC1OC)CCC(=O)O | C10H11BrO3
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-Bromo-4-methoxyphenyl)propanoyl chloride | BrC=1C=C(C=CC1OC)CCC(=O)Cl | C10H10BrClO2
